US07365085B2
e. N-(2-[4-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from N-(2-[4-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in 55% yield in the same manner as the preparation of N-(2-(2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine in Example 184g. MS (ESI) 554 (MH+).

reactant | N-(2-[4-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | ClC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C29H30Cl2F3NO3
reactant | N-(2-(2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | C28H28Cl2F3NO3
product | N-(2-[4-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | 55% yield | Cl.ClC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | InChI=1S/C28H28Cl2F3NO3.ClH/c1-19(21-9-11-23(29)12-10-21)17-34(18-22-6-3-8-25(27(22)30)28(31,32)33)13-4-14-37-24-7-2-5-20(15-24)16-26(35)36;/h2-3,5-12,16,19H,4,13-15,17-18H2,1H3,(H,35,36);1H
